US08937067B2
1-Boc-piperazine (250 mg, 1.34 mmol, 1 equiv.) was dissolved in dichloromethane (2.5 mL) and cooled in an ice bath under nitrogen atmosphere. Triethylamine (375 μl, 2.68 mmol, 2.0 equiv.) was added followed by portionwise addition of 2,3-dihydrobenzo[b][1,4]dioxine-6-sulfonyl chloride (346 mg, 1.48 mmol, 1.1 equiv.). The reaction was stirred in the ice bath for one hour, then quenched with saturated aqueous ammonium chloride (˜3 mL). The organic layer was washed twice with saturated ammonium chloride, once with brine, dried over sodium sulfate and concentrated in vacuo and then purified on silica gel chromatography using a 95/5-5/95, hexane/EtOAc (v/v) gradient to give 1-boc-4-(2,3-dihydrobenzo[b][1,4]dioxin-6-ylsulfonyl)piperazine as a white powder (516 mg, 89% yield).

reactant | 1-Boc-piperazine | 1.34 mmol, 250 mg, 1 equiv. | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | Triethylamine | 2.68 mmol, 375 μl, 2.0 equiv. | C(C)N(CC)CC | C6H15N
reactant | 2,3-dihydrobenzo[b][1,4]dioxine-6-sulfonyl chloride | 1.48 mmol, 346 mg, 1.1 equiv. | O1C2=C(OCC1)C=C(C=C2)S(=O)(=O)Cl | C8H7ClO4S
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | 1-boc-4-(2,3-dihydrobenzo[b][1,4]dioxin-6-ylsulfonyl)piperazine | 516 mg, 89% yield | C(=O)(OC(C)(C)C)N1CCN(CC1)S(=O)(=O)C1=CC2=C(OCCO2)C=C1 | C17H24N2O6S
